US04722810
(±)-7-[[2-[(Acetylthio)methyl]-1-oxo-3-phenylpropyl]amino]heptanoic acid, methyl ester (1.43 g., 3.77 mmole) is dissolved in methanol (30 ml.) by warming, and then chilled in an ice bath under nitrogen. 1N Sodium hydroxide (3.77 ml., 1.0 eq.) is added dropwise over 10 minutes to this solution. The mixture is stirred at 0° for ten minutes and then allowed to warm to room temperature and stirred for one hour. The mixture is concentrated in vacuo to remove all the methanol. The residue is diluted with water (20 ml.) and extracted with ethyl acetate (3×15 ml.). These organic layers are combined, washed with water and brine (15 ml. each), dried (Na2SO4) and concentrated to yield 1.26 g. of a white solid. This solid is dissolved in 25 ml. of a 1:1 mixture of methanol: water and adjusted to pH of about 1.0 with concentrated hydrochloric acid. Zinc dust (80 mg.) is added to this solution and the mixture is stirred at room temperature for 30 minutes. The remaining zinc is filtered off and the filtrate is concentrated in vacuo to remove all the methanol. The residue is diluted with water (20 ml.) and then extracted with ethyl acetate (3×25 ml.). These organic layers are combined, washed with 5% sodium bicarbonate, water and brine (2×20 ml. each), dried (Na2SO4), and concentrated to yield 1.23 g. of a white solid. This material is purified by flash chromatography on 50 g. of Merck silica gel (230-400 mesh) eluting with ethyl acetate to yield 980 mg. of a white solid. This solid is taken up in methanol, filtered through a cellulose microfilter, and concentrated in vacuo to yield (±)-7-[[2-(mercaptomethyl)-1-oxo-3-phenylpropyl]amino]heptanoic acid, methyl ester, m.p. 68°-70°. TLC (silica gel, benzene/acetic acid 4:1) Rf =0.44.

reactant | (±)-7-[[2-[(Acetylthio)methyl]-1-oxo-3-phenylpropyl]amino]heptanoic acid, methyl ester | 3.77 mmole, 1.43 g | C(C)(=O)SCC(C(=O)NCCCCCCC(=O)OC)CC1=CC=CC=C1 | C20H29NO4S
reactant | Sodium hydroxide | 1N, 3.77 ml, 1.0 eq. | [OH-].[Na+]
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
catalyst | Zinc | 80 mg | [Zn] | Zn
product | (±)-7-[[2-(mercaptomethyl)-1-oxo-3-phenylpropyl]amino]heptanoic acid, methyl ester | SCC(C(=O)NCCCCCCC(=O)OC)CC1=CC=CC=C1 | C18H27NO3S
